US04734416
The thus-obtained 13 g of 8-chloro-5-methoxy-3,4-dihydrocarbostyril and 35 g of aluminum chloride are dispersed in 30 ml of benzene and heated for 2 hours under refluxing conditions. The reaction mixture is poured into ice-water and the precipitate thus formed is separated by filtration, washed with water and dried. Recrystallization from isopropanol obtains 8 g of 8-chloro-5-hydroxy-3,4-dihydrocarbostyril in the form of colorless needle-like crystals with a melting point of 206°-207° C.

reactant | 8-chloro-5-methoxy-3,4-dihydrocarbostyril | 13 g | ClC=1C=CC(=C2CCC(NC12)=O)OC | C10H10ClNO2
reactant | aluminum chloride | 35 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | benzene | 30 ml | C1=CC=CC=C1 | C6H6
product | 8-chloro-5-hydroxy-3,4-dihydrocarbostyril | 8 g | ClC=1C=CC(=C2CCC(NC12)=O)O | C9H8ClNO2
